US08476305B2
2-Fluoro-4-(3-trifluoromethylphenylthio)benzaldehyde
Under an argon atmosphere, ethyldiisopropylamine (7.0 mL), tris(dibenzylideneacetone)dipalladium(0) chloroform adduct (518 mg), xantphos (578 mg), and 3-trifluoromethylthiophenol (3.56 g) were added at room temperature into a solution of 4-bromo-2-fluorobenzaldehyde (4.06 g) in 1,4-dioxane (42 mL), and the resultant solution was heated to reflux for 5 hours. To the reaction solution added water, extracted with ethyl acetate, washed with water and saturated brine in that order, and then dried over anhydrous sodium sulfate. The solvent was evaporated, and the resultant residue was purified by silica gel column chromatography (hexane:ethyl acetate=30:1) to obtain the target product (4.08 g) as a colorless oil.

reactant | ethyldiisopropylamine | 7.0 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 3-trifluoromethylthiophenol | 3.56 g | FC(C=1C=C(C=CC1)S)(F)F | C7H5F3S
reactant | 4-bromo-2-fluorobenzaldehyde | 4.06 g | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
reactant | water | O | H2O
solvent | 1,4-dioxane | 42 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) chloroform adduct | 518 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
catalyst | xantphos | 578 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | 2-Fluoro-4-(3-trifluoromethylphenylthio)benzaldehyde | 4.08 g | FC1=C(C=O)C=CC(=C1)SC1=CC(=CC=C1)C(F)(F)F | C14H8F4OS
